US04590201
To a stirred solution of sodium (276 mg, 12.0 mmol) in absolute ethanol (28 ml) at 60° C. was added 2-cyanoacetamide (952 mg, 11.3 mmol). The mixture was stirred 5 minutes, 3-chloro-4-(4-chlorophenylthio)benzyl azide (1.8 g, 5.8 mmol) was added, and the mixture was refluxed for 1 hour. The mixture was cooled to 0° C. and filtered. The solid product was washed with ethanol (2X), water (4X), ethanol (2X), and diethyl ether, and air dried to provide 1.67 g (73%) of 5-amino-1-(3-chloro-4-[4-chlorophenylthio]-benzyl)-1,2,3-triazole-4-carboxamide, m.p. 202°-203.5° C.

reactant | sodium | 12.0 mmol, 276 mg | [Na] | Na
reactant | 2-cyanoacetamide | 11.3 mmol, 952 mg | C(#N)CC(=O)N | C3H4N2O
reactant | 3-chloro-4-(4-chlorophenylthio)benzyl azide | 5.8 mmol, 1.8 g | ClC=1C=C(CN=[N+]=[N-])C=CC1SC1=CC=C(C=C1)Cl | C13H9Cl2N3S
solvent | ethanol | 28 ml | C(C)O | C2H6O
product | 5-amino-1-(3-chloro-4-[4-chlorophenylthio]-benzyl)-1,2,3-triazole-4-carboxamide | 1.67 g, 73% | NC1=C(N=NN1CC1=CC(=C(C=C1)SC1=CC=C(C=C1)Cl)Cl)C(=O)N | C16H13Cl2N5OS
